US08461181B2
A mixture of 0.64 g of 2-fluoro-4-pyridinemethanol, 10 ml of chloroform and 2.54 g of Dess-Martin Periodinane (1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one) was stirred for 30 minutes at room temperature. A saturated sodium hydrogen carbonate aqueous solution was poured, and the mixture was extracted three times with ethyl acetate. The combined organic layers were dried over magnesium sulfate, then, concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.19 g of 2-fluoropyridine-4-carbaldehyde.

reactant | 2-fluoro-4-pyridinemethanol | 0.64 g | FC1=NC=CC(=C1)CO | C6H6FNO
reactant | Dess-Martin Periodinane | 2.54 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-fluoropyridine-4-carbaldehyde | 0.19 g | FC1=NC=CC(=C1)C=O | C6H4FNO
